US05019597
Preparation of 3-(1-oxo-2-propenyl)-3-azabicyclo[3.2.2]- nonane
A solution of acryloyl chloride (4.05 ml, 0.05 mole) in 50 ml of ethyl ether was added with stirring to a cold mixture of 3-azabicyclo[3.2.2]nonane (6.26 g, 0.05 mole) and triethylamine (15.3 ml, 0.11 mole) in 250 ml of ethyl ether. The ice bath was removed and the reaction was allowed to warm to room temperature and stirred for 72 hours. The resulting white material was filtered and washed well with ethyl ether and ethyl acetate. The solvent was removed on a rotary evaporator and the residue taken up in ethyl ether, hexane added and the solution chilled. The remaining small amount of insoluble material was filtered and the solvent evaporated, leaving the product as an oil. The structure was confirmed by NMR.

reactant | acryloyl chloride | 0.05 mole, 4.05 ml | C(C=C)(=O)Cl | C3H3ClO
reactant | 3-azabicyclo[3.2.2]nonane | 0.05 mole, 6.26 g | C12CNCC(CC1)CC2 | C8H15N
reactant | triethylamine | 0.11 mole, 15.3 ml | C(C)N(CC)CC | C6H15N
solvent | ethyl ether | 50 ml | C(C)OCC | C4H10O
solvent | ethyl ether | 250 ml | C(C)OCC | C4H10O
product | 3-(1-oxo-2-propenyl)-3-azabicyclo[3.2.2]- nonane | O=C(C=C)N1CC2CCC(C1)CC2 | C11H17NO
